US06174887B1
To a solution of acetamide oxime [2.67 g, J. Saunders et al., J. Med. Chem., 33, 1128 (1990)] in THF (125 ml) was added 60% sodium hydride (1.44 g) in oil, and the mixture was refluxed under heating for 1 hour. Then, the reaction mixture was allowed to cool, and a solution of N-tert-butoxycarbonyl-L-phenylalanine methyl ester (8.38 g) in THF (40 ml) was added at room temperature. The mixture was refluxed under heating for 20 minutes. The mixture was allowed to cool, and water (10 ml) was added, which was followed by concentration under reduced pressure. A 10% aqueous citric acid solution was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=3/1 v/v) to give 4.43 g of N-tert-butoxycarbonyl-1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-phenylethylamine. This compound was added to a 4N hydrogen chloride-dioxane solution (50 ml), and the mixture was stirred at room temperature for 2 hours. Toluene was added to the reaction mixture, and the mixture was concentrated under reduced pressure. Ether was added to the residue for crystallization to give the title compound (3.25 g, yield 47%).

reactant | acetamide oxime | 2.67 g | C(C)(N)=NO | C2H6N2O
reactant | sodium hydride | 1.44 g | [H-].[Na+]
reactant | N-tert-butoxycarbonyl-L-phenylalanine methyl ester | 8.38 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C15H21NO4
reactant | water | 10 ml | O | H2O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-tert-butoxycarbonyl-1-(3-methyl-1,2,4-oxadiazol-5-yl)-2-phenylethylamine | 4.43 g | C(C)(C)(C)OC(=O)NC(CC1=CC=CC=C1)C1=NC(=NO1)C | C16H21N3O3
